US07208498B2
Step C. 2-[6-(Trifluoromethyl)pyridin-3-yl]-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine, hydrochloride
A mixture of 220 mg of 7-benzyl-4-chloro-2-[6-(trifluoromethyl)pyridin-3-yl]-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine and 40–50 mg of 10% palladium on carbon in 8 mL of methanol and 5 mL of ethyl acetate was stirred under 1 atm of hydrogen for 3 h. The mixture was filtered and concentrated to give a yellow solid. Trituration with ether gave 120 mg of the title compound as an off-white powder. LC-MS 281.1 (M+1).

reactant | 7-benzyl-4-chloro-2-[6-(trifluoromethyl)pyridin-3-yl]-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 220 mg | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)Cl)C=1C=NC(=CC1)C(F)(F)F | C20H16ClF3N4
reactant | hydrogen | [H][H] | H2
reactant | ether | CCOCC | C4H10O
catalyst | palladium on carbon | 40–50 mg | [Pd] | Pd
solvent | methanol | 8 mL | CO | CH4O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 2-[6-(Trifluoromethyl)pyridin-3-yl]-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine, hydrochloride | 120 mg | Cl.FC(C1=CC=C(C=N1)C=1N=CC2=C(N1)CNCC2)(F)F | InChI=1S/C13H11F3N4.ClH/c14-13(15,16)11-2-1-9(6-18-11)12-19-5-8-3-4-17-7-10(8)20-12;/h1-2,5-6,17H,3-4,7H2;1H
